US09371319B2
Preparation 154: tert-Butyl 6-bromo-2-(1-(difluoromethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate
6-Bromo-2-(1-(difluoromethyl)-1H-pyrazol-4-yl)-1-(methylsulfonyl)-1H-pyrrolo[3,2-c]pyridine (Preparation 153, 189 mg, 0.48 mmole) was stirred in methanol (2.1 ml) and 1M sodium hydroxide in water (0.53 mL) was added. The reaction was stirred at 25° C. for 85 minutes. The methanol was evaporated and the residue taken up in ethyl acetate (14 mL). The solution was washed with water (3 mL) and with brine; then dried and concentrated in vacuo. The residue was stirred with ethyl acetate (2 mL) and triethylamine (101 uL, 73 mg, 0.72 mmole) was added, along with a small crystal of DMAP. Di-t-butyl dicarbonate (157 mg 0.72 mmole) was added and the reaction stirred at room temperature for 1.5 hours. The solvent was concentrated in vacuo and purified using preparative TLC eluting with 1:2 ethyl acetate:cyclohexane to afford the title compound (131 mg). 1H-NMR (CDCl3, 500 MHz): δ 1.53 (s, 9H)<6.65 (d, J=0.63 Hz, 1H), 7.25 (t, J=60.5 Hz, 1H), 7.79 (s, 1H), 8.01 (s, 1H), 8.27 (m, 1H), 8.62 (d, J=0.63 Hz, 1H).

reactant | 6-Bromo-2-(1-(difluoromethyl)-1H-pyrazol-4-yl)-1-(methylsulfonyl)-1H-pyrrolo[3,2-c]pyridine | 0.48 mmole, 189 mg | BrC1=CC2=C(C=N1)C=C(N2S(=O)(=O)C)C=2C=NN(C2)C(F)F | C12H9BrF2N4O2S
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | triethylamine | 0.72 mmole, 101 uL, 73 mg | C(C)N(CC)CC | C6H15N
reactant | Di-t-butyl dicarbonate | 0.72 mmole, 157 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 2.1 ml | CO | CH4O
solvent | water | 0.53 mL | O | H2O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 6-bromo-2-(1-(difluoromethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | 131 mg | BrC1=CC2=C(C=N1)C=C(N2C(=O)OC(C)(C)C)C=2C=NN(C2)C(F)F | C16H15BrF2N4O2
